US06605323B1
A solution of 40 mmol of 1 -bromo-4-pentylbenzene in 90 ml of toluene is admixed with 44 mmol of 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid, 45 ml of ethanol, a solution of 80 mmol of sodium carbonate in 45 ml of water and 0.4 mmol of tetrakis(triphenylphosphine)palladium(0) at room temperature. The mixture is heated at the boil for 5 h. After cooling, the phases are separated, the aqueous phase is extracted with tert-butyl methyl ether and the combined organic phases are washed with water and saturated sodium chloride solution and dried with magnesium sulfate. The solvents are then removed under reduced pressure and the raw product is purified by column chromatography over silica gel 60 using n-heptane/dichloromethane 1:1 as eluent and recrystallization from acetonitrile/acetone 1:1, giving 2-fluoro-6-(4-nonylphenyl)-3-(4-pentylphenyl)pyridine.

reactant | 1 -bromo-4-pentylbenzene | 40 mmol | BrC1=CC=C(C=C1)CCCCC | C11H15Br
reactant | 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid | 44 mmol | FC1=NC(=CC=C1B(O)O)C1=CC=C(C=C1)CCCCCCCCC | C20H27BFNO2
reactant | ethanol | 45 ml | C(C)O | C2H6O
reactant | sodium carbonate | 80 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 45 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.4 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-6-(4-nonylphenyl)-3-(4-pentylphenyl)pyridine | FC1=NC(=CC=C1C1=CC=C(C=C1)CCCCC)C1=CC=C(C=C1)CCCCCCCCC | C31H40FN
